* This is the output circuit as recommended by the AX5043 data sheet
* at 430 MHz.  It converts differential to single-ended and does some
* filtering, about -25dB at 860MHz.
* 
* Unless otherwise mentioned, assume all inductors have a Q of around 65
* at 435MHz.  This is a pretty good assumption for the Coilcraft 0603DC
* inductors.

*                 input+
*                 |   input-
*                 |   |   output
*                 |   |   |
.SUBCKT AX5043Out inp inn out

Lina	inp	0	100n
Linb	inn	0	100n

C1a	inp	a1	4.3p
C1b	inn	b1	4.3p

L1a	a1	a1a	43n
Rl1a	a1a	a2	1.15
L1b	b1	b1a	43n
Rl1b	b1a	b2	1.15

C2a	a2	0	11p
C2b	b2	0	5.6p
L2b	b2	b2a	27n
Rl2b	b2a	0	1.13
L3a	a2	a2a	27n
Rl3a	a2a	out	1.13

C3b	b2	out	5.1p

* Avoid issues with series inductors, they result in:
* Warning: singular matrix:  check node l.x1.l4b#branch
* Warning: True gmin stepping failed
* This add a series resistor on all inductors.
.option rseries = 1.0e-4

.ENDS

.param m = 0

.if (m == 1)
I1 inn inp dc 0 ac 1
X1 inp inn out AX5043Out
Rl out 0 50
.endif

.if (m == 2)
I1 out 0 dc 0 ac 1
X1 inp inn out AX5043Out
Rl inn inp 100
.endif

.if (m == 3)
V1 ina inb dc 0 AC 1 sin(0 1 440MEG 0 0 0)
Rsrca ina ina1 50
Rsrcb inb inb1 50

X1 ina1 inb1 out AX5043Out

Rload out 0 50
.endif

.control
*tran 0.1ns 1200ns 1100ns
*plot v(ina1,inb1), v(out)

alterparam m = 1
reset
ac lin 50000 100Meg 500Meg
plot title "Input Impedance" (v(inp)-v(inn)) (vi(inp)-vi(inn))

alterparam m = 2
reset
ac lin 50000 100Meg 500Meg
plot title "Output Impedance" -vr(out) vi(out)

alterparam m = 3
reset
ac lin 50000 100Meg 2000Meg
plot title "Gain in circuit" db(2 * sqrt(100 / 50) * v(out) / v(ina, inb))
.endc

.end
